US07514566B2
To a stirred orange mixture of tert-butyl 5-(quinazolin-7-yl)thiazol-2-ylcarbamate (22 mg, 67 μmol) and Cs2CO3 (44 mg, 134 μmol) in DMF (1.0 mL), was slowly added a solution of the cyclic sulfamidate (38 mg, 100 μmol) in DMF (0.5 mL) at 50° C. The resulting light yellow mixture was stirred at 50° C. for 30 minutes. The mixture was then cooled to 0° C. and was then diluted with EtOAc and 1N HCl(aq) and the entire mixture was stirred at room temperature for 30 minutes. The layers were separated, the aqueous layer was extracted with EtOAc (5 mL×3), and the combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give the crude residue, which was taken up in a solution of DCM (1.5 mL), and TFA (1.5 mL) was slowly added. The overall solution was stirred at room temperature for 30 minutes and concentrated. The crude residue was dissolved in DCM and mixed with silica. The solvent was evaporated, and the residue was purified with flash column chromatography (pure DCM→10% MeOH in DCM) to obtain N-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(quinazolin-7-yl)thiazol-2-amine (12 mg, 42%) as a yellow solid.

reactant | tert-butyl 5-(quinazolin-7-yl)thiazol-2-ylcarbamate | 67 μmol, 22 mg | N1=CN=CC2=CC=C(C=C12)C1=CN=C(S1)NC(OC(C)(C)C)=O | C16H16N4O2S
reactant | Cs2CO3 | 134 μmol, 44 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | N-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(quinazolin-7-yl)thiazol-2-amine | 12 mg, 42% | N[C@H](CNC=1SC(=CN1)C1=CC=C2C=NC=NC2=C1)CC1=CC=C(C=C1)C(F)(F)F | C21H18F3N5S
